US05811433
d. 9-Chloro-3-methyl-6-oxo-3,6-dihydro-2H-1-oxa-3a,8-diazaphenalene-5-carboxylic acid
0.95 g (3.1 mmol) of ethyl 9-chloro-3-methyl-6-oxo-3,6-dihydro-2H-1-oxa-3a,8-diazaphenalene-5-carboxylate are heated at reflux in a mixture of 4 ml of acetic acid, 4 ml of water and 0.4 ml of concentrated sulphuric acid for four hours. The cooled mixture is put into ice-water, the product is isolated and washed with water.

reactant | ethyl 9-chloro-3-methyl-6-oxo-3,6-dihydro-2H-1-oxa-3a,8-diazaphenalene-5-carboxylate | 3.1 mmol, 0.95 g | ClC1=NC=C2C(C(=CN3C(COC1=C32)C)C(=O)OCC)=O | C14H13ClN2O4
reactant | water | 4 ml | O | H2O
reactant | sulphuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 9-Chloro-3-methyl-6-oxo-3,6-dihydro-2H-1-oxa-3a,8-diazaphenalene-5-carboxylic acid | ClC1=NC=C2C(C(=CN3C(COC1=C32)C)C(=O)O)=O | C12H9ClN2O4
